US04992574
In analogy to Example 1B (1st paragraph), from 6,7,8,9-tetrahydro-α,3,7,7-tetramethyl-5H-benzocycloheptene-2-methanol, there is obtained the corresponding phosphonium salt. 5.30 g of the phosphonium salt are suspended in 35 ml of tetrahydrofuran and deprotonized at 0° with 9.0 ml of 1.4M nBuLi (hexane) After 30 minutes, 2 30 g of methyl 4-formylbenzoate are added thereto and the mixture is stirred at room temperature for an additional 2 hours. The mixture is poured on to ice-water, extracted with Et2O, washed with water, dried and evaporated. Chromatography on silica gel (low-boiling petroleum ether/AcOEt=93/3), followed by crystallization from n-hexane, yields 560 mg of methyl p-[(E)-(6,7,8,9-tetrahydro-3,7,7-trimethyl-5H-benzocyclohepten-2-yl) propenyl]benzoate of m.p. 59°-60°.

reactant | phosphonium | 5.30 g | [PH4+]
reactant | nBuLi | 1.4M, 9.0 ml | [Li]CCCC
reactant | methyl 4-formylbenzoate | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | methyl p-[(E)-(6,7,8,9-tetrahydro-3,7,7-trimethyl-5H-benzocyclohepten-2-yl) propenyl]benzoate | 560 mg | CC1=CC2=C(CCC(CC2)(C)C)C=C1C/C=C/C1=CC=C(C(=O)OC)C=C1 | C25H30O2
